US07105533B2
A suspension of Pd/C (0.25 g of 10%) in MeOH (5 mL) was mixed with a solution of 2-(2-methoxy-4-nitrophenyl)pyridine (0.5 g, 2.17 mmol) in MeOH (5 mL). The resulting reaction mixture was stirred vigorously for 12 h under an atmosphere of hydrogen, filtered through a pad of celite, and the filtrate was concentrated and purified by flash column chromatography on silica gel with EtOAc:hexanes (1:9 to 3:2) to afford 3-methoxy-4-pyridin-2-ylaniline.

reactant | 2-(2-methoxy-4-nitrophenyl)pyridine | 2.17 mmol, 0.5 g | COC1=C(C=CC(=C1)[N+](=O)[O-])C1=NC=CC=C1 | C12H10N2O3
solvent | MeOH | 5 mL | CO | CH4O
solvent | MeOH | 5 mL | CO | CH4O
catalyst | Pd/C | 0.25 g | [Pd] | Pd
product | 3-methoxy-4-pyridin-2-ylaniline | COC=1C=C(N)C=CC1C1=NC=CC=C1 | C12H12N2O
